US07994205B2
4-methyl-1-phenyl-5-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
A solution of methyl 4-methyl-1-phenyl-5-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (410 mg) in tetrahydrofuran (10 mL) was cooled to −78° C., and 1.5 mol/L toluene solution of diisobutylaluminum hydride (2.3 mL) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at room temperature for 30 min. Saturated brine was added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was filtered through celite, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. A solution of the residue in acetonitrile (10 mL) was cooled to 0° C., tetra-n-propylammonium perruthenate (40 mg), N-methylmorpholine N-oxide (269 mg) and molecular sieves 4A powder (1.0 g) were added, and the mixture was stirred at room temperature for 2.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in ethyl acetate and filtered through celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=9:1→2:1) to give the title compound as a pale-yellow oil (yield 170 mg, 45%).

reactant | methyl 4-methyl-1-phenyl-5-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 410 mg | CC=1C(=CN(C1S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C19H17NO4S
reactant | toluene | 1.5 mol/L | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 2.3 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 4-methyl-1-phenyl-5-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 170 mg, 45% | CC=1C(=CN(C1S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)C=O | C18H15NO3S
